US05246948
Synthesis of 4-[3-(2-pyrazinecarbonylamino)propylthio]pyridine dihydrochloride
To a solution of 704.5 mg (2.57 mmol) of 4-[3-(2-pyrazinecarbonylamino)propylthio]pyridine in 30 ml of methanol, 70 ml of 10% hydrochloric acid-methanol was added, and the mixture was stirred at room temperature for 2 hours. The solvent was distilled off and the residue was purified by recrystallization (solvent: ethanol-ether) to give 842.4 mg of the desired compound (85.6% yield, pale yellow crystals).

reactant | 4-[3-(2-pyrazinecarbonylamino)propylthio]pyridine | 2.57 mmol, 704.5 mg | N1=C(C=NC=C1)C(=O)NCCCSC1=CC=NC=C1 | C13H14N4OS
reactant | hydrochloric acid methanol | 70 ml | Cl.CO
solvent | methanol | 30 ml | CO | CH4O
product | 4-[3-(2-pyrazinecarbonylamino)propylthio]pyridine dihydrochloride | 842.4 mg, 85.6% yield | Cl.Cl.N1=C(C=NC=C1)C(=O)NCCCSC1=CC=NC=C1 | InChI=1S/C13H14N4OS.2ClH/c18-13(12-10-15-7-8-16-12)17-4-1-9-19-11-2-5-14-6-3-11;;/h2-3,5-8,10H,1,4,9H2,(H,17,18);2*1H
